US06046232
Synthesis of α-(2-Fluoro-4heptyloxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 28 using 2-fluoro-4-hydroxybenzonitrile, 1-iodoheptane and N-tert-butylhydroxylamine. The title compound was isolated in 66.0% overall yield as a white solid, m.p. 38.8° C. (Rf =0.21 on a silica gel plate using hexanes/ethyl acetate, 4:1, v:v, as the eluant).

reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | 1-iodoheptane | ICCCCCCC | C7H15I
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(2-Fluoro-4heptyloxyphenyl)-N-tert-butylnitrone | FC1=C(C=CC(=C1)OCCCCCCC)C=[N+]([O-])C(C)(C)C | C18H28FNO2
